US06281361B1
22 g of 7-tert-butyl-3-hydroxy-5-methyl-3H-benzofuran-2-one (prepared as described in Ex. 2 of U.S. Pat. No. 5,614,572) are placed in 50 ml of toluene, and 3 drops of DMF and 15 ml of thionyl chloride are added thereto. The solution is then slowly heated to 373 K at such a rate that the evolution of HCl and SO2 remains vigorous yet controllable. It is then stirred at 373 K for a further hour. Approximately 50 ml of liquid are then distilled off in order to remove the excess thionyl chloride. The residue is diluted with 160 ml of toluene and, at room temperature, 14 ml of triethylamine are added dropwise. The thick, red reaction mixture is then heated under reflux for 30 min. After cooling to room temperature, the triethylamine hydrochloride which has precipitated is filtered off, and the residue is concentrated to an oily consistency using a rotary evaporator. The isoxindigo is crystallised out by adding 200 ml of acetonitrile, is filtered off, washed with acetonitrile and dried, yielding 11.6 g (57% of the theoretical yield) of 7,7′-di-tert-butyl-5,5′-dimethyl-[3,3′]bibenzofuranylidene-2,2′-dione of formula (LIa).

reactant | 7-tert-butyl-3-hydroxy-5-methyl-3H-benzofuran-2-one | 22 g | C(C)(C)(C)C1=CC(=CC=2C(C(OC21)=O)O)C | C13H16O3
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | HCl | Cl | ClH
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 7,7′-di-tert-butyl-5,5′-dimethyl-[3,3′]bibenzofuranylidene-2,2′-dione | C(C)(C)(C)C1=CC(=CC=2C(C(OC21)=O)=C2C(OC1=C2C=C(C=C1C(C)(C)C)C)=O)C | C26H28O4
